US09226922B2
(R)-1-(3-(Ethylthio)-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea (40.6 mg, 0.070 mmol) was dissolved in TFA (1 mL) and triethylsilane (0.017 mL, 0.104 mmol) was added. The reaction mixture stirred at room temperature for 1 h. The reaction mixture was concentrated in vacuo, diluted with DMSO (1 mL), filtered, and purified by mass-triggered reverse phase HPLC. The fractions containing pure product were concentrated in vacuo to give (R)-1-(3-(ethylthio)-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea, which was obtained as the trifluoroacetic acid salt. MS ESI calc'd. For C17H19N5OS [M+1]+ 342. found 342. 1H NMR (500 MHz, DMSO-d6) δ 13.13 (s, 1H), 9.09 (s, 1H), 8.65 (s, 1H), 7.73 (s, 1H), 7.61 (s, 1H), 7.33 (d, J=4.4 Hz, 4H), 7.22 (dt, J=4.1, 8.6 Hz, 1H), 4.94-4.77 (m, 1H), 3.10 (q, J=7.3 Hz, 2H), 1.39 (d, J=7.0 Hz, 3H), 1.27 (t, J=7.3 Hz, 3H). Examples 80-81 (Table 13) were prepared according to Scheme 8 following similar procedures described for Example 79 using the appropriate sodium thiol, which can be achieved by those of ordinary skill in the art of organic synthesis. Example 81 was obtained as the trifluoroacetic acid.

reactant | (R)-1-(3-(Ethylthio)-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea | 0.070 mmol, 40.6 mg | C(C)SC1=NN(C2=C1C=NC(=C2)NC(=O)N[C@H](C)C2=CC=CC=C2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C36H33N5OS
reactant | triethylsilane | 0.104 mmol, 0.017 mL | C(C)[SiH](CC)CC | C6H16Si
solvent | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | (R)-1-(3-(ethylthio)-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea | C(C)SC1=NNC2=C1C=NC(=C2)NC(=O)N[C@H](C)C2=CC=CC=C2 | C17H19N5OS
